Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
fever
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Mr. ___ is an ___ year old man with hx of T3, N0, M0 colon ca 
s/p transverse colectomy in ___ c/b incisional hernia, 
dementia, T2DM, HTN presents with fever and lethargy.  
.  
Pt is a resident ___. He had 3 days of 
cold symptoms, 2 days of constipation and was noted to have 
decreased appetite and overall depressed functioning compared to 
baseline. Today he had a fever to 100.8 and vomited yellowish 
(nonbloody) emesis x 2 and he was referred to the ED.  
.  
In the ED, initial vs were: T 106.1 P ___ BP 161/82 R 18 94%O2on 
RA, Patient was given 1 g Vanc, 4.5 g Zosyn, Tylenol 1g and 2 
litres of NS. Ice packs were placed to cool him and he was 
afebrile on arrival to the floor. He had no complaints.  
.  
Review of sytems:  
(+) Per HPI  
(-) Denies cough, shortness of breath. Denied chest pain or 
tightness, palpitations. Denied diarrhea, or abdominal pain.  

 
Past Medical History:
DM II on insulin  
Colon cancer T3N0M0, dx ___ (as part of GIB w/u) s/p transverse 
colon resection ___ by poor wound healing (finally 
closed)
Ant abdominal wound->stage II ulceration, chronic since 
colectomy
Advanced Dementia, A&OX1, has guardian
incisional hernia, large, asymptomatic
GIB ___, EGD with possible diulefoy
Anemia, Fe def 
CKD III baseline 1.3 (on ___
chronic ___ on lasix
Hypertension  
Hearing loss  
Constipation
H/o delirium 
 
Social History:
___
Family History:
NC.  None given by patient or known by power of attorney.
 
Physical Exam:
Vitals: T 98.7  BP 132/69  HR 86  RR 27  97%RA
General: Alert, oriented to person, no acute distress 
HEENT: Sclera anicteric, MMM, oropharynx clear, dentures in 
place
Neck: supple, JVP not elevated, no LAD
Lungs: Few scattered rhonchi, no wheezes or crackles. Otherwise 
clear
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Abdomen:  Large ventral hernia with clean dressing in placement. 
soft, non-tender, bowel sounds present, no rebound tenderness or 
guarding, no organomegaly
GU: +foley
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema
.
on discharge
Vitals:97.1  137/75  77  18  100%RA
Pain: denies
Access: PIV
Gen: nad, calm and pleasant
HEENT: mm dry
CV: RRR, ___ SM all over
Resp: CTAB with slight basilar crackles, no wheezing
Abd; soft, obese, nontender, large ventral hernia, +BS
Ext; no edema
Neuro: A&OX1 at baseline, otw nonfocal
Skin: ant abdominal wound with stage II ulceration (present on 
admission) well healing
psych: pleasant, calm
.
 
Pertinent Results:
WBC 5.6->4s  
hgb 12->10s (after fluids) 
HCT ___
Plt 160s ->225  
Creat 1.6-->1.2 stable X2 days (baseline 1.3)
lactate 1.3
.
  
U/A ___: >50 WBCs, +bacteria, +RBCs, <1 epis  
UCx ___ >100K enterobacter cloacae, pansensitive
Blood cx ___ NTD
.  
.  
.
.
Imaging/results: 
CXR ___: No acute process  
.
CXR ___: low lung volumes, mild pulm edema, no consolidation, 
mild CM
.

 
Brief Hospital Course:
Briefly, Mr. ___ is an ___ year old man with h/o DM, colon ca 
s/p transverse colectomy in ___ c/b incisional hernia/poor 
wound healing, advanced dementia, and HTN. He presented from his 
SNF with fever, abd distention, vomiting X2, and lethargy. Pt is 
a resident ___. He had 3 days of cold 
symptoms, 2 days of constipation and was noted to have decreased 
appetite and overall depressed functioning compared to baseline. 
On ___, he had a fever to 100.8 and emesis of yellowish 
nonbloody material X2 which led to transfer to ED.   
In the ED, initial vs were: T 106.1 P ___ BP 161/82 R 18 94%O2on 
RA, Patient was given 1 g Vanc, 4.5 g Zosyn, Tylenol 1g and 2 
litres of NS. Ice packs were placed to cool him. He was admitted 
to MICU for consideration of artic sun for cooling. 
However, since in MICU, remained afebrile. Hemodynamically 
stable. MS appears to be at his baseline. Was found to have UTI 
so Abx changed to CTx. CXR was negative for PNA. Blood cx 
negative. He got total 3L IVFs in ICU and  ER. Given his prompt 
improvement he was transfered out of MICU next day. On the floor 
he continued to do well. MS appeared at baseline, occasional 
sundowning but was redirectable. Abx were converted to cefpodox 
for UCx showing pansensitive enterobacter, for total 10day 
course. He had ARF on CKD on admission, which resolved back to 
baseline 1.2 with fluids. He developed mild pulm edema after 3L 
on admission, but this improved when resuming his home dose of 
lasix. As for his constipation, he had several BMs here that 
were well formed. There were no other issues. Discharged back to 
___. 
.
See progress note below for details of plan: 

___ year old man with h/o DM, colon ca s/p transverse colectomy 
in ___ c/b incisional hernia/poor wound healing, advanced 
dementia, chronic dCHF and HTN. He presented from his SNF with 
fever and lethargy and is found to have enterobacter UTI. 
Transfered to floor after brief MICU stable. Doing well and 
ready for t/f back to SNF.  
.
UTI, bacterial: Temp 106 reported in ED on admission (?error, 
may be was 100.6) but otherwise has been stable hemodynamically. 
Mild delirium that has resolved. Recieved empiric vanc/zosyn in 
ER, then CTX X3 days, will change to cefpodox on discharge per 
sensitivities of Enterobacter for 7day course. Blood Cx NTD. 
foley placed in ER and removed next day. Other infectious w/u 
with CXR (given URI symptoms) was negative. 
.
ARF on CKD III: Recent baseline is 1.3 since ___. Was 1.6 on 
admission. Improved to 1.2 after fluids and treatment of UTI 
which was stable on discharge. 
.
Bicytopenia: hct and plt all lower this admission than previous. 
Unclear what hct baseline is (prior ones are during GIB and post 
op). Repeat HCT here were stable around ___ after fluids.  Plt 
in past 300s, now ___ on admission for few days, likely ___ 
infection. Repeat plt improved to 220s on discharge. Coags were 
okay. 
.  
Acute Delirium in setting of advanced dementia: report of 
increased lethargy on admission, which is likely due to UTI. 
This resolved by next day. He appeared to be at baseline. He had 
occ episodes of agitation which may be sundowning rather than 
delirium. He did not need any medications. 
.  
Colon cancer: s/p resection. No abdominal pain.  ventral hernia 
stable but pt has chronic abd stage II ulceration/wound. Seen by 
wound care who provided some recs which will be relayed to ___. 
.
Chronic dCHF: Did develop mild pulm edema on CXR after fluids 
with some wheezing. This improved once his lasix was resumed and 
he did very well, never required O2. Kept on his BB/CCB. 
.  
DMII: SSI. resumed glipizide. Was on SSI here but resumed his 
insulin regimen on discharge. kept on statin. 
.  
HTN: stable on prior doses of verapamil, lopressor, lasix
.  
GERD and h/o UGIB: Continued on PPI. 
.
Constipation: resolved with bowel regimen. kept on this on 
discharge. 
.
Dispo/Code: DNR/DNI, POA is ___ ___, 
___. Updated on admission/discharge. Will d/c back to 
___ today. 
.
.

 
Medications on Admission:
Medications:  
Colace  
Milk of Mag  
Dulcolax  
MVI  
Iron 325  
Lasix 20  
Glipizide 5  
Humalog ISS  
Lantus 9 U qHS  
Lipitor 10 mg  
Lopressor 25 TID  
Verapamil 120  
Trazodone 50 qhs  
Protonix 40  

 
Discharge Medications:
1. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
2. Bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily) as needed for 
constipation.  
3. Polyethylene Glycol 3350 17 gram/dose Powder Sig: One (1)  PO 
DAILY (Daily) as needed for constipation.  
4. Atorvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. Verapamil 120 mg Tablet Sustained Release Sig: One (1) Tablet 
Sustained Release PO Q24H (every 24 hours).  
6. Furosemide 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
7. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
8. Senna 8.6 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
9. Metoprolol Tartrate 25 mg Tablet Sig: One (1) Tablet PO TID 
(3 times a day).  
10. Trazodone 50 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime) as needed for insomnia.  
11. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
12. Glipizide 2.5 mg Tablet Extended Rel 24 hr Sig: Three (3) 
Tablet Extended Rel 24 hr PO DAILY (Daily): total 7.5mg.  
13. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H 
(every 6 hours) as needed for pain, fever.  
14. Cefpodoxime 100 mg Tablet Sig: One (1) Tablet PO every 
twelve (12) hours for 6 days.  
15. Lantus 100 unit/mL Cartridge Sig: 12U  Subcutaneous at 
bedtime.  
16. Lantus 100 unit/mL Cartridge Sig: see below  Subcutaneous 
three times a day: 7 U before breakfast, 3U before lunch and 
dinner. also continue sliding scale.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
UTI, enterobacter
mild acute dCHF
ARF on CKD resolved
hypoactive delirium resolved
abd chronic wound
 
Discharge Condition:
Mental Status: Confused - sometimes-->baseline dementia and 
A&OX1.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
You were admitted for fever, lethargy, and found to have UTI. 
You will complete Abx course as prescribed. 
 
Followup Instructions:
___